US05464781
A mixture of 6-ethoxypyridin-2-amine (8.0 g) and diethyl ethoxymethylenemalonate (12.5 g) was heated at 95° C. under vacuum for 3 hours and then heated at 95° C. at atmospheric pressure for 18 hours. The mixture was cooled to ambient temperature, diluted with petroleum ether b.p. 40°-60° C. and filtered to give diethyl (6-ethoxy-2-pyridylamino)methylenemalonate, m.p. 58°-60° C.

reactant | 6-ethoxypyridin-2-amine | 8.0 g | C(C)OC1=CC=CC(=N1)N | C7H10N2O
reactant | diethyl ethoxymethylenemalonate | 12.5 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
product | diethyl (6-ethoxy-2-pyridylamino)methylenemalonate | C(C)OC1=CC=CC(=N1)NC=C(C(=O)OCC)C(=O)OCC | C15H20N2O5
